US03978064
3-Methoxyethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester
The procedure of Example 13 is repeated, starting with 3.21 g. of 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester and 890 mg. of methoxyethylamine in 30 ml., to give 1.5 g. of the crude product as a yellow oil.

reactant | 3-hydroxymethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | OC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C16H19NO6
reactant | methoxyethylamine | COCCN | C3H9NO
product | 3-Methoxyethylaminomethylene-6,7-dimethoxy-2-methyl-4-oxo-1,2,3,4-tetrahydro-1-quinoline carboxylic acid, ethyl ester | COCCNC=C1C(N(C2=CC(=C(C=C2C1=O)OC)OC)C(=O)OCC)C | C19H26N2O6
